US07855215B2
6-[1-(3-Trifluoromethyl-phenylcarbamoyl)-2,3-dihydro-1H-indol-5-yloxy]-pyrimidine-4-carboxylic acid
8.9 ml LiOH (1 M in H2O) are added to a solution of 2.80 g (5.9 mMol) 6-[1-(3-trifluoromethyl-phenylcarbamoyl)-2,3-dihydro-1H-indol-5-yloxy]-pyrimidine-4-carboxylic acid ethyl ester in 20 ml THF. After 1 h at rt, the mixture is concentrated under reduced pressure, the residue re-dissolved in EtOAc and 1 M HCl, the aqueous layer separeted off and extracted twice with EtOAc. The organic phases are washed twice with 1 M HCl, water and brine, dried (Na2SO4) and concentrated to the title compound: MS: [M−1]=443; HPLC: AtRet=12.9.

reactant | LiOH | 1 M, 8.9 ml | [Li+].[OH-]
reactant | 6-[1-(3-trifluoromethyl-phenylcarbamoyl)-2,3-dihydro-1H-indol-5-yloxy]-pyrimidine-4-carboxylic acid ethyl ester | 5.9 mMol, 2.80 g | C(C)OC(=O)C1=NC=NC(=C1)OC=1C=C2CCN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O | C23H19F3N4O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6-[1-(3-Trifluoromethyl-phenylcarbamoyl)-2,3-dihydro-1H-indol-5-yloxy]-pyrimidine-4-carboxylic acid | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=CC(=NC=N1)C(=O)O)(F)F | C21H15F3N4O4
